US08492395B2
To a stirred mixture of 2-amino-4-(trifluoromethyl)benzoic acid (3.0 g, 15 mmol) and imidazole (1.2 g, 18 mmol) in acetonitrile (30 mL), was added acetyl chloride (1.3 mL, 18 mmol) at room temperature. The mixture was stirred at room temperature overnight. To the mixture, was added 3-amino-piperidine-2,6-dione hydrogen chloride (2.4 g, 15 mmol), imidazole (2.2 g, 32 mmol) and triphenyl phosphite (4.6 mL, 18 mmol) and heated to reflux for 22 hours. To the mixture, was added water (100 mL). The suspension was filtered and washed with water (2×50 mL), ethyl acetate (2×50 mL), sodium hydrogen carbonate (sat, 50 mL) and water (50 mL) to give a white solid, which was dissolved in DMSO (10 mL). To the solution, was added water (3 mL) to give a suspension. The suspension was filtered and washed with DMSO (2 mL) to give a white solid. The solid was stirred in water (50 mL) at 60° C. for 2 hours, then at room temperature overnight. The suspension was filtered and washed with water (2×50 mL) to give 3-(2-methyl-4-oxo-7-trifluoromethyl-4H-quinazolin-3-yl)-piperidine-2,6-dione as a white solid (1.17 g, 24% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 30/70 CH3CN/0.1% H3PO4, 8.14 min (99.9%); mp: 277-279° C.; 1H NMR (DMSO-d6) δ 2.18-2.25 (m, 1H, CHH), 2.59-2.74 (m, 5H, CH3, 2CH—H), 2.81-2.88 (m, 1H, CHH), 5.34 (dd, J=6, 11 Hz, 1H, NCH), 7.80 (dd, J=2, 8 Hz, 1H, Ar), 7.96 (s, 1H, Ar), 8.24 (d, J=8 Hz, 1H, Ar), 11.09 (s, 1H, NH); 13C NMR (DMSO-d6) δ 20.73, 23.54, 30.57, 56.82, 122.30 (q, JC-F=3 Hz), 122.99, 123.45 (q, JC-F=273 Hz), 123.74 (q, JC-F=4 Hz), 127.85, 134.22 (q, JC-F=32 Hz), 146.84, 156.98, 159.80, 169.24, 172.56; LCMS: MH=340; Anal Calcd for C15H12N3O3F3: C, 53.10; H, 3.57; N, 12.39; F, 16.80. Found: C, 52.55; H, 3.42; N, 12.21; F, 17.18.

reactant | 2-amino-4-(trifluoromethyl)benzoic acid | 15 mmol, 3.0 g | NC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C8H6F3NO2
reactant | imidazole | 18 mmol, 1.2 g | N1C=NC=C1 | C3H4N2
reactant | acetyl chloride | 18 mmol, 1.3 mL | C(C)(=O)Cl | C2H3ClO
reactant | 3-amino-piperidine-2,6-dione hydrogen chloride | 15 mmol, 2.4 g | Cl.NC1C(NC(CC1)=O)=O
reactant | imidazole | 32 mmol, 2.2 g | N1C=NC=C1 | C3H4N2
reactant | triphenyl phosphite | 18 mmol, 4.6 mL | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | water | 50 mL | O | H2O
solvent | water | 3 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | 3-(2-methyl-4-oxo-7-trifluoromethyl-4H-quinazolin-3-yl)-piperidine-2,6-dione | 1.17 g, 24% yield | CC1=NC2=CC(=CC=C2C(N1C1C(NC(CC1)=O)=O)=O)C(F)(F)F | C15H12F3N3O3
